US08426411B2
A round bottom flask was charged with cis-tert-butyl 4-methyl-3-((5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)methylcarbamoyl)piperidine-1-carboxylate (5.62 g, 10.6 mmol, prepared using O from 4-methylnicotonic acid, M, H from Example #5, Step C, HATU and DIEA) and Lawesson's reagent (3.0 g, 7.4 mmol) in 1,4-dioxane (100 mL). The reaction was heated at about 80° C. for about 1 h, cooled to ambient temperature, and concd under reduced pressure. The crude product was dissolved in EtOAc (200 mL) and washed with saturated aqueous NaHCO3 (3×100 mL). The organic layer was separated, dried over anhydrous MgSO4, filtered, and concd under reduced pressure. The material was purified by silica gel chromatography eluting with a gradient of 0-5% MeOH in DCM to afford cis-tert-butyl 4-methyl-3-((5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)methylcarbamothioyl)piperidine-1-carboxylate (5.2 g, 90%): LC/MS (Table 1, Method b) Rt=2.65 min; MS m/z: 544 (M+H)+. A round bottom flask was charged with cis-tert-butyl 4-methyl-3-((5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)methylcarbamothioyl)piperidine-1-carboxylate (2.6 g, 4.8 mmol) and mercury (II) trifluoroacetate (2.1 g, 4.8 mmol) in 1,4-dioxane (72 mL) and stirred at ambient temperature for about 1 h. The reaction mixture was filtered through a pad of Celite®. The Celite® pad was rinsed with DCM (30 mL) and EtOAc (30 mL). The filtrate was concd under reduced pressure. The residue was dissolved in DCM (50 mL) and washed with saturated aqueous sodium thiosulfate (10 mL), and saturated aqueous NaHCO3 (25 mL), dried over anhydrous MgSO4, filtered, and concd under reduced pressure. The material was purified by silica gel chromatography eluting with a gradient of 0-5% MeOH in DCM to afford cis-tert-butyl-4-methyl-3-(6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)piperidine-1-carboxylate (2.2 g, 90%): LC/MS (Table 1, Method b) Rt=2.57 min; MS m/z: 510 (M+H)+.

reactant | cis-tert-butyl 4-methyl-3-((5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)methylcarbamothioyl)piperidine-1-carboxylate | 4.8 mmol, 2.6 g | C[C@@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C(NCC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)=S | C26H33N5O4S2
solvent | 1,4-dioxane | 72 mL | O1CCOCC1 | C4H8O2
catalyst | mercury (II) trifluoroacetate | 4.8 mmol, 2.1 g | FC(C(=O)[O-])(F)F.[Hg+2].FC(C(=O)[O-])(F)F
product | cis-tert-butyl-4-methyl-3-(6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)piperidine-1-carboxylate | 2.2 g, 90% | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)C)C1=NC=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C26H31N5O4S
